US05362747
(2S)-2-amino-5-(5-methyl-2-nitrophenylamino)pentanoic acid
A mixture of 474 mg (2 mmol) of Noc-BOC-L-ornithine (supplier BAChem) and 314 mg (2 mmol) of 3-fluoro-4-nitrotoluene (Aldrich Chemical Co.)in 2 mL of ethanol and 2 mL of 1N NaOH was heated at reflux for 12 hours. Another 2 mmol each of NaOH and 3-fluoro-4-nitrotoluene was added and the reaction was continued another two hours. The solution was poured into 50 mL of water and extracted with dichloromethane (2×80 mL). The organic phase was dried and concentrated to give a solid residue, which was stirred in 20 mL of 4N HCl in 33% acetic acid for four hours, filtered and concentrated to leave a yellow solid, which was recrystallized from ethanol/water to afford 296 mg (56% yield) of the title product as an amorphous orange powder. mp 263°-264° (decomp.); MS M/Z 268 [M+H], 285 [M+NH4 ]; 1H NMR (300 MHz, D2O/NaOD) δ: 1.64 (m, 4H)2.18 (s, 3H), 3.12 (m, 2H), 3.30 (t, J=4.5 Hz, 1H), 6.22 (d, J=8.1 Hz, 1H), 6.43 (s, 1H), 7.58 (d, J=8.1 Hz, 1H); 13C NMR (75.5 MHz, D2O/NaOD) δ: 185.88, 158.28, 148.71, 130.81,128.71,120.22, 116.11, 58.73, 45.24, 35.40, 27.73, 24.24; Analysis calc'd for C12H17N3O4.0.4 HCl: C, 50.81; H, 6.25; N, 14.81; found: C, 50.79; H, 6.27; N, 14.73.

reactant | BOC-L-ornithine | C(=O)(OC(C)(C)C)N[C@@H](CCCN)C(=O)O | C10H20N2O4
reactant | 3-fluoro-4-nitrotoluene | 2 mmol, 314 mg | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
reactant | NaOH | 2 mmol | [OH-].[Na+]
solvent | HCl | 4N, 20 mL | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | (2S)-2-amino-5-(5-methyl-2-nitrophenylamino)pentanoic acid | 296 mg, 56% yield | N[C@H](C(=O)O)CCCNC1=C(C=CC(=C1)C)[N+](=O)[O-] | C12H17N3O4
